US08492378B2
6-[5-[[4-(methylthio)-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazol-2-yl]benzothiazole
In the same manner as in Example 7 and using 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol instead of 5-(1H-indazol-5-yl)-1,3,4-oxadiazole-2-thiol and 4-(methylthio)-3-(trifluoromethyl)benzyl chloride instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 94%) was obtained as colorless crystals.

reactant | 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol | S1C=NC2=C1C=C(C=C2)C2=NN=C(O2)S | C9H5N3OS2
reactant | 4-(methylthio)-3-(trifluoromethyl)benzyl chloride | CSC1=C(C=C(CCl)C=C1)C(F)(F)F | C9H8ClF3S
product | 6-[5-[[4-(methylthio)-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazol-2-yl]benzothiazole | yield 94% | CSC1=C(C=C(CSC2=NN=C(O2)C2=CC3=C(N=CS3)C=C2)C=C1)C(F)(F)F | C18H12F3N3OS3
